US07595397B2
1-Isopropyl-2-phenyl-4-(2′chloro-biphenyl-4-ylmethyl)-piperazine
This compound could be made the following manner: 100 mg of 3-phenyl-1-(2′-chloro-biphenyl-4-ylmethyl)-piperazine would be dissolved in a 2:1 mixture of dichloroethane and acetone, 2 equiv. of sodium triacetoxyborohydride would be added followed by 30 μL of acetic acid. The reaction would be stirred at room temperature under nitrogen overnight. The reaction would be diluted with 5 mL of dichloromethane. The reaction mixture would be washed with 1M aqueous sodium hydroxide solution and brine, then dried over sodium sulfate, filtered and concentrated in vacuo. The crude residue would be purified by column chromatography to afford the title compound.

reactant | 3-phenyl-1-(2′-chloro-biphenyl-4-ylmethyl)-piperazine | 100 mg | C1(=CC=CC=C1)C1CN(CCN1)CC1=CC=C(C=C1)C1=C(C=CC=C1)Cl | C23H23ClN2
reactant | sodium triacetoxyborohydride | 2 equiv. | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | acetic acid | 30 μL | C(C)(=O)O | C2H4O2
solvent | dichloroethane | ClC(C)Cl | C2H4Cl2
solvent | acetone | CC(=O)C | C3H6O
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | 1-Isopropyl-2-phenyl-4-(2′chloro-biphenyl-4-ylmethyl)-piperazine | C(C)(C)N1C(CN(CC1)CC1=CC=C(C=C1)C1=C(C=CC=C1)Cl)C1=CC=CC=C1 | C26H29ClN2
